US07247734B2
1-(5-Chloro-2,4-dihydroxy-phenyl)-2-(4-methoxy-phenyl)-ethanone (1 eq) was dissolved in acetonitrile and potassium carbonate (4 eq) was added portion wise. The suspension was stirred for five minutes, before the addition of benzyl bromide (2.4 eq), and after which, the reaction mixture was stirred under nitrogen at reflux for 3 hours. The reaction was allowed to cool to room temperature and diluted with water. This was extracted into ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to give a syrup. This was triturated with 1:1 diethyl ether:hexane to give 1-(2,4-bis-benzyloxy-5-chloro-phenyl)-2-(4-methoxy-phenyl)-ethanone as a white solid.

reactant | 1-(5-Chloro-2,4-dihydroxy-phenyl)-2-(4-methoxy-phenyl)-ethanone | 1 eq | ClC=1C(=CC(=C(C1)C(CC1=CC=C(C=C1)OC)=O)O)O | C15H13ClO4
reactant | potassium carbonate | 4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.4 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(2,4-bis-benzyloxy-5-chloro-phenyl)-2-(4-methoxy-phenyl)-ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C(CC1=CC=C(C=C1)OC)=O | C29H25ClO4
